US05952362
A mixture of 1-methanesulfonyl-3-methyl-6-nitro-1H-indole (1.17 g, 4.60 mmol) and platinum oxide (52 mg, 0.23 mmol) in 20 ml of absolute ethanol was stirred at room temperature under an atmosphere of hydrogen gas for 12 hr. The mixture was filtered through a fine Whatman glass fiber filter to remove the catalyst. A quantitative amount of 1-methanesulfonyl-3-methyl-6-amino-1H-indole was obtained after removing the ethanol at reduced pressure.

reactant | 1-methanesulfonyl-3-methyl-6-nitro-1H-indole | 4.60 mmol, 1.17 g | CS(=O)(=O)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C | C10H10N2O4S
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.23 mmol, 52 mg | [Pt]=O
product | 1-methanesulfonyl-3-methyl-6-amino-1H-indole | CS(=O)(=O)N1C=C(C2=CC=C(C=C12)N)C | C10H12N2O2S
